US09302989B2
N-[4-(1-oxo-1,2-dihydropyrrolo[1,2-d][1,2,4]triazin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
40 mg [4-(1-Oxo-1,2-dihydro-pyrrolo[1,2-d][1,2,4]triazin-4-yl)-phenyl]-carbamic acid phenyl ester (0.115 mmol) were dissolved in 0.3 ml DMSO. A mixture of 15 mg isoindoline (0.121 mmol) in 0.2 ml DMSO was added at room temperature and the reaction was stirred at room temperature over night. The reaction mixture was diluted in ethyl acetate and washed with water, aqueous HCl, water, aqueous NaOH, and water. The solvent was evaporated under reduced pressure to afford the title compound.

reactant | [4-(1-Oxo-1,2-dihydro-pyrrolo[1,2-d][1,2,4]triazin-4-yl)-phenyl]-carbamic acid phenyl ester | 0.115 mmol, 40 mg | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)C1=NNC(C=2N1C=CC2)=O)=O | C19H14N4O3
reactant | isoindoline | 0.121 mmol, 15 mg | C1NCC2=CC=CC=C12 | C8H9N
solvent | DMSO | 0.3 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(1-oxo-1,2-dihydropyrrolo[1,2-d][1,2,4]triazin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | O=C1C=2N(C(=NN1)C1=CC=C(C=C1)NC(=O)N1CC3=CC=CC=C3C1)C=CC2 | C21H17N5O2
